US07160887B1
Platinum oxide (100 mg) was added to an acetic acid (30 ml) solution of 5-hydroxyisoquinoline (2.9 g, 20 mmols), and this was hydrogenated at room temperature under atmospheric pressure. After the reaction, the catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was crystallized from toluene (20 ml) and taken out through filtration. The resulting crystal was dissolved in a mixture of aqueous 1 N sodium hydroxide solution (40 ml) and tetrahydrofuran (40 ml), to which was added di-tert-butyl dicarbonate (4.8 g, 22 mmols). The reaction mixture was stirred at room temperature for 1 hour, to which was added 1 N hydrochloric acid (40 ml). This was extracted with diethyl ether. The extract was dried with anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The crystal precipitated was recrystallized from diisopropyl ether to give a colorless crystal of 2-tert-butoxycarbonyl-5-hydroxy-tetrahydroisoquinoline (2.9 g, 58%).

reactant | 5-hydroxyisoquinoline | 20 mmols, 2.9 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | di-tert-butyl dicarbonate | 22 mmols, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1 N, 40 ml | Cl | ClH
catalyst | Platinum oxide | 100 mg | [Pt]=O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-tert-butoxycarbonyl-5-hydroxy-tetrahydroisoquinoline | 2.9 g, 58% | C(C)(C)(C)OC(=O)N1CC2=CC=CC(C2CC1)O | C14H21NO3
